US07291635B2
The title C compound, 4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl)-benzoic acid 4-t-butoxycarbonyl-benzyl ester (119 mg, 0.19 mmol) is dissolved in CH2Cl2 (5 mL) and then added TFA (5 mL, 64.9 mmol). This is stirred for 2 h and then concentrated under reduced pressure. The residue is suspended in MeCN:water (6:4) (12 mL), centrifuged, decanted and filtered through a 0.1 micron Acrodisc filter. The resulting mixture is loaded onto a preparative reverse phase HPLC column (YMC CombiPrep Pro C18, 50×20 mm I.D., particle size S-5 micron, 12 nM) in 6 aliquots and eluted at 30 mL/min with a gradient of 90:10 (water containing 0.1% TFA: MeCN) at 0 min to 10:90 at 5 min. Then held at 10:90 until 7 min. Fractions containing product are combined and concentrated by lyophilization to yield 4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl)-benzoic acid 4-carboxy-benzyl ester as a white amorphous solid: [M−1]−=403.

reactant | 4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl)-benzoic acid 4-t-butoxycarbonyl-benzyl ester | 0.19 mmol, 119 mg | C(C)(C)(C)OC(=O)C1=CC=C(COC(C2=CC=C(C=C2)CN2S(NC(C2)=O)(=O)=O)=O)C=C1 | C22H24N2O7S
reactant | TFA | 64.9 mmol, 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 4-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-ylmethyl)-benzoic acid 4-carboxy-benzyl ester | C(=O)(O)C1=CC=C(COC(C2=CC=C(C=C2)CN2S(NC(C2)=O)(=O)=O)=O)C=C1 | C18H16N2O7S
